US05034417
A mixture of 2'-(2,4-difluoro-α-hydroxybenzyl)-4'-nitromethanesulfonanilide (5.3 g), 10% palladium on carbon (1 g) and acetic acid (6 ml) in methanol (60 ml) was shaken under hydrogen atmosphere for 9 hours. The mixture was filtered and the filtrate was evaporated. The residue was dissolved in ethyl acetate, washed with a saturated solution of sodium bicarbonate, dried, and evaporated. The sirupy residue was recrystallized from ethanol to give crystals of 4'-amino-2'-(2,4-difluorobenzyl)methanesulfonanilide (3.2 g).

reactant | 2'-(2,4-difluoro-α-hydroxybenzyl)-4'-nitromethanesulfonanilide | 5.3 g | FC1=C(C(O)C2=C(NS(=O)(=O)C)C=CC(=C2)[N+](=O)[O-])C=CC(=C1)F | C14H12F2N2O5S
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | 60 ml | CO | CH4O
product | 4'-amino-2'-(2,4-difluorobenzyl)methanesulfonanilide | 3.2 g | NC1=CC(=C(NS(=O)(=O)C)C=C1)CC1=C(C=C(C=C1)F)F | C14H14F2N2O2S
